US07888383B2
c) [5-fluoro-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid
To a stirring solution of [5-fluoro-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid ethyl ester (28 mg, 0.06 mmol) dissolved in THF (1 ml) at room temperature, is added 2N LiOH aq (1 ml). The reaction mixture is stirred at room temperature for 2 h and partitioned between water/EtOAc (20 ml). The aqueous phase is separated and acidified with 1N HCl aq to pH 4. The product is extracted into EtOAc (20 ml), dried (MgSO4) and evaporated in vacuo; [M+H]+ 444.

reactant | [5-fluoro-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid ethyl ester | 0.06 mmol, 28 mg | C(C)OC(CC1=C(N(C2=CC=C(C=C12)F)CC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F)C)=O | C22H21F4NO4S
reactant | LiOH | 2N, 1 ml | [Li+].[OH-]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | [5-fluoro-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid | FC=1C=C2C(=C(N(C2=CC1)CC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F)C)CC(=O)O | C20H17F4NO4S
